US06716863B2
(v) 3-[3-(1H-1,2,3-triazol-1-yl)propyl]phenol
To a solution of 1-[3-(3-benzyloxyphenyl)propyl]-1H-1,2,3-triazole (0.937 g) in methanol (32 ml), 10% palladium carbon (0.1 g) was added, followed by vigorous stirring in a hydrogen atmosphere at room temperature for 8 hours. The catalyst was filtered off; the filtrate was concentrated to dryness under reduced pressure to yield the titled compound (0.593 g) as colorless crystals.

reactant | 1-[3-(3-benzyloxyphenyl)propyl]-1H-1,2,3-triazole | 0.937 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCN1N=NC=C1 | C18H19N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 32 ml | CO | CH4O
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | 3-[3-(1H-1,2,3-triazol-1-yl)propyl]phenol | 0.593 g | N1(N=NC=C1)CCCC=1C=C(C=CC1)O | C11H13N3O
